US07276603B2
To a stirred solution of 2-(6-methoxy-1-benzofuran-3-yl)ethanol (960 mg, 5 mmol) in anhydrous THF (50 ml), triphenylphosphine (1.572 g, 6 mmol), iodine (1.518 g, 6 mmol) and imidazole (408 mg, 6 mmol) were added at room temperature. The reaction mixture was stirred at room temperature for 4 hrs and quenched with water. The product was then extracted with chloroform, washed well with 5% Na2S2O3 solution and the organic layer dried over anhydrous MgSO4. It was then filtered and concentrated. The residue was purified by silica-gel column chromatography by eluting it with 30% ethyl acetate:hexane. The product, 2-(6-methoxy-1-benzofuran-3-yl)ethyl iodide, was obtained as a brown liquid. Yield: 1.2 g (80%); (M+H): 302.

reactant | 2-(6-methoxy-1-benzofuran-3-yl)ethanol | 5 mmol, 960 mg | COC1=CC2=C(C(=CO2)CCO)C=C1 | C11H12O3
reactant | triphenylphosphine | 6 mmol, 1.572 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | iodine | 6 mmol, 1.518 g | II | I2
reactant | imidazole | 6 mmol, 408 mg | N1C=NC=C1 | C3H4N2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-(6-methoxy-1-benzofuran-3-yl)ethyl iodide | COC1=CC2=C(C(=CO2)CCI)C=C1 | C11H11IO2
